US08258134B2
2-Cyclobutylmethyl-malonic acid (1.20 g, 6.9 mmol) was heated at 195° C. for 2 h. After this time, the resulting brown solution was cooled to 25° C. and diluted with a 90/10 methylene chloride/methanol solution (50 mL). The organics were then washed with a saturated aqueous sodium chloride solution, concentrated in vacuo and azeotroped with acetonitrile (2×10 mL) to afford 3-cyclobutyl-propionic acid (770 mg, 85%) as brown oil. The material was used without further purification.

reactant | 2-Cyclobutylmethyl-malonic acid | 6.9 mmol, 1.20 g | C1(CCC1)CC(C(=O)O)C(=O)O | C8H12O4
solvent | methylene chloride methanol | 50 mL | C(Cl)Cl.CO
product | 3-cyclobutyl-propionic acid | 770 mg, 85% | C1(CCC1)CCC(=O)O | C7H12O2
